US08053457B2
4-Chloro-2-(2-pyrrolidin-1-yl-ethoxy)-benzylamine
A mixture of 4-chloro-2-fluoro-benzonitrile (869 mg, 5.58 mmol) and 2-pyrrolidin-1-yl-ethanol (0.80 mL, 6.70 mmol) in THF (30 mL) is treated with a 0.5 M toluene solution of KHMDS (13.4 mL, 6.7 mmol) at 0° C. After completion of the reaction at RT, the reaction mixture is quenched by H2O. EtOAc is added and the organic layer is washed with brine, dried over MgSO4. Concentration in vacuo affords the corresponding 4-chloro-2-(2-pyrrolidin-1-ylethoxy)-benzonitrile. A THF (7 mL) solution of 4-chloro-2-(2-pyrrolidin-1-yl-ethoxy)-benzonitrile is added to a suspension of LAH (293 mg, 7.71 mmol) in THF (50 mL) at 0° C. The reaction is allowed to stir for 2 h at ambient temperature and then quenched by Na2SO4.10H2O, and the product is isolated by filtration with Celite and washed with THF and dried under reduced pressure to give the title compound as oil; ES-MS: M+=255.2; HPLC: AtRet=1.22 min.

reactant | 4-chloro-2-(2-pyrrolidin-1-yl-ethoxy)-benzonitrile | ClC1=CC(=C(C#N)C=C1)OCCN1CCCC1 | C13H15ClN2O
reactant | LAH | 7.71 mmol, 293 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 4-Chloro-2-(2-pyrrolidin-1-yl-ethoxy)-benzylamine | ClC1=CC(=C(CN)C=C1)OCCN1CCCC1 | C13H19ClN2O
